US08835428B2
Step 4: Methyl 2-(3-(4-(3-(3-fluorophenyl)ureido)phenyl)isoxazole-5-carboxamido)-3-methylbutanoate
To methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)-3-methylbutanoate (500 mg) dissolved in THF (10 ml) was added 1-fluoro-3-isocyanatobenzene (260 mg) and stirred at RT overnight. The solid was filtered and washed with THF to yield 460 mg (64%) white solid. MS (ES+): m/z 455 (M+1); 1H NMR (DMSO-d6, 300 MHz): δ 9.19 (d, 1H), 9.16 (s, 1H), 9.13 (s, 1H), 7.84 (d, 2H), 7.67 (s, 1H), 7.62 (d, 2H), 7.5 (dd, 1H), 7.31 (m, 1H), 7.13 (dd, 1H), 6.78 (m, 1H), 4.29 (m, 1H), 3.66 (s, 3H), 2.2 (m, 1H), 0.95 (d, 6H).

reactant | methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)-3-methylbutanoate | 500 mg | NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C(C)C | C16H19N3O4
reactant | 1-fluoro-3-isocyanatobenzene | 260 mg | FC1=CC(=CC=C1)N=C=O | C7H4FNO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Methyl 2-(3-(4-(3-(3-fluorophenyl)ureido)phenyl)isoxazole-5-carboxamido)-3-methylbutanoate | 460 mg, 64% | FC=1C=C(C=CC1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C(C)C)=O | C23H23FN4O5
